US04340740
956 ml of alpha-(methylthio)(m-phenoxyphenyl)-acetonitrile was dissolved in 5 ml of anhydrous methanol, and 1.7 ml of a 2.5 M methanol solution of sodium methoxide was added at room temperature in an atmosphere of argon. The mixture was stirred, and 0.34 ml of methyl iodide was added dropwise. The mixture was further stirred for 1 hour at room temperature. An aqueous solution of ammonium chloride (3 g/20 ml) was added, and the mixture was extracted with 20 ml of ether three times. The extract was washed with 25 ml of water three times, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography (silica gel; hexane and methylene chloride) to afford 817 mg (yield 82%) of alpha-(methylthio)-alpha-(m-phenoxyphenyl)-propionitrile as a colorless oil.

reactant | alpha-(methylthio)(m-phenoxyphenyl)-acetonitrile | 956 ml | CSC(C#N)C1=CC(=CC=C1)OC1=CC=CC=C1 | C15H13NOS
reactant | sodium methoxide | C[O-].[Na+]
reactant | methyl iodide | 0.34 ml | CI | CH3I
reactant | ammonium chloride | 20 ml, 3 g | [Cl-].[NH4+]
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 2.5 M | CO | CH4O
product | alpha-(methylthio)-alpha-(m-phenoxyphenyl)-propionitrile | 817 mg, yield 82% | CSC(C#N)(C)C1=CC(=CC=C1)OC1=CC=CC=C1 | C16H15NOS
